US08957089B2
82.5 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonyl chloride
3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonic acid (8.4 g) were dissolved in dichloromethane (70 mL). Pentachloro-λ5-phosphane (6.05 g, 29 mmol) were added at room temperature and the reaction mixture was heated under reflux for 3 h. The reaction mixture was poured on ice water and the aqueous layer was extracted with dichloromethane. The combined organic layers were concentrated in vacuo (11 g). The crude product was used for the next step without further purification. For test purposes a sample of the crude product (3.8 g) was purified by flash chromatography (silica, methanol:acetonitrile=1:1) to yield a pale yellow foam (1.5 g).

reactant | 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonic acid | 8.4 g | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCCS(=O)(=O)O | C22H24ClNO4S
reactant | Pentachloro-λ5-phosphane | 29 mmol, 6.05 g | ClP(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 3-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)propane-1-sulfonyl chloride | 1.5 g | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCCS(=O)(=O)Cl | C22H23Cl2NO3S
